US07271197B2
i) 3-(4-{[tert-Butyl(dimethyl)silyl]oxy}butyl)aniline
A solution of the 4-(3-aminophenyl)butan-1-ol [Hua Hsueh Hsueh Pao 1964, 30, 166-75. CAN 61:47615] (3.66 g) in dry DMF (30 ml) was treated with imidazole (1.66 g) and tert-butyldimethylsilyl chloride (3.5 g). The reaction mixture was stirred at room temperature for 18 h. The reaction mixture was concentrated in vacuo and the residue partitioned between sat. NH4Cl(aq) and ethyl acetate. The aqueous phase was extracted with EtOAc and the combined organic phase washed with water, dried (Na2SO4) and concentrated in vacuo. The residue was purified by chromatography (Biotage, Petroleum ether-EtOAc 9:1) to give the title compound. LCMS RT=3.89 min.

reactant | 4-(3-aminophenyl)butan-1-ol | 3.66 g | NC=1C=C(C=CC1)CCCCO | C10H15NO
reactant | imidazole | 1.66 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 3.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-(4-{[tert-Butyl(dimethyl)silyl]oxy}butyl)aniline | [Si](C)(C)(C(C)(C)C)OCCCCC=1C=C(N)C=CC1 | C16H29NOSi
